US04847256
A mixture of 31.0 g of 2',5'-dichloroacetophenone and 25 ml of N,N-dimethylformamide dimethyl acetal was heated on a steam bath for 6 hours, then evaporated to dryness in vacuo. The residue was slurried with hexane, filtered, and gave 35.3 g of 2',5'-dichloro-3-dimethylaminoacrylophenone as orange crystals, mp 83°-85° C.

reactant | 2',5'-dichloroacetophenone | 31.0 g | ClC1=C(C=C(C=C1)Cl)C(C)=O | C8H6Cl2O
reactant | N,N-dimethylformamide dimethyl acetal | 25 ml | COC(N(C)C)OC | C5H13NO2
product | 2',5'-dichloro-3-dimethylaminoacrylophenone | 35.3 g | ClC1=C(C=C(C=C1)Cl)C(C=CN(C)C)=O | C11H11Cl2NO
